US05536720
Preparation of 2-(4-Bromophenyl)-4H-1,3,4-Oxadiazine
A solution of 2.9 g (0.07 mole) sodium hydroxide dissolved in 10 ml of water was added dropwise at room temperature to a mixture of 6.5 g (0.03 mole) 4-bromobenzoic hydrazide and 4.0 g (0.03 mole) 1-bromo-2-fluoroethane in 25 ml of ethanol. The resulting solution was refluxed for two and one-half hours. The mixture was cooled to room temperature, diluted with 150 ml of water and extracted several times with ether (100 ml). After separation and drying over anhydrous sodium sulfate, the solution was filtered and evaporated under reduced pressure leaving 4.6 grams of an oil (63.6% yield), which was purified by distillation. The product was characterized by IR and NMR spectroscopy.

reactant | sodium hydroxide | 0.07 mole, 2.9 g | [OH-].[Na+]
reactant | 4-bromobenzoic hydrazide | 0.03 mole, 6.5 g | BrC1=CC=C(C(=O)NN)C=C1 | C7H7BrN2O
reactant | 1-bromo-2-fluoroethane | 0.03 mole, 4.0 g | BrCCF | C2H4BrF
solvent | water | 10 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 2-(4-Bromophenyl)-4H-1,3,4-Oxadiazine | 4.6 grams, 63.6% yield | BrC1=CC=C(C=C1)C=1OC=CNN1 | C9H7BrN2O
